US04847289
Step B: Preparation of 5-[4-cyano-2-fluorophenylthio]thiophene-2-sulfonic acid potassium salt
Acetic anhydride (7.34 g, 0.072 mol) was added to (4-cyano-2-fluorophenylthio)thiophene (8.46 g, 0.036 mol) in 200 ml ethyl acetate at 0° C. A cooled solution of sulfuric acid (3.88 g, 0.0395 mol) and ethyl acetate (10 ml) was added dropwise and allowed to stir at room temperature overnight. After cooling to 0° C. potassium acetate (4.23 g, 0.043 mol) in a minimum amount of ethanol was added slowly. A white solid (11.70 g) was collected after stirring one hour.

reactant | Acetic anhydride | 0.072 mol, 7.34 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (4-cyano-2-fluorophenylthio)thiophene | 0.036 mol, 8.46 g | C(#N)C1=CC(=C(C=C1)SC=1SC=CC1)F | C11H6FNS2
reactant | sulfuric acid | 0.0395 mol, 3.88 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium acetate | 0.043 mol, 4.23 g | C(C)(=O)[O-].[K+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 5-[4-cyano-2-fluorophenylthio]thiophene-2-sulfonic acid potassium salt | [K+].C(#N)C1=CC(=C(C=C1)SC1=CC=C(S1)S(=O)(=O)[O-])F | InChI=1S/C11H6FNO3S3.K/c12-8-5-7(6-13)1-2-9(8)17-10-3-4-11(18-10)19(14,15)16;/h1-5H,(H,14,15,16);/q;+1/p-1
